US05885972
Synthesis of 2-trimethylsilyloxy-4-trimethylsilyl amino pyrimidine (6)
The mixture of cytosine (1.7 g, 15.3 mmol), hexamethyldisilazane (HMDS) (15 ml), trimethyl-chlorosilane (TCS) (0.1 ml) and pyridine (10 ml) was refluxed at 130° C. bath temperature until the complete dissolving of cytosine (about 1.5 h). The excess HMDS and pyridine was removed by co-distillation with 2×50 ml of dry toluene. White solid was dried in high vacuum. Yield: 3.8 g (6) (97.3%). TLC:Rf =0.42 ethyl acetate-petroleum ether (7:3).

reactant | cytosine | 15.3 mmol, 1.7 g | N1C(=O)N=C(N)C=C1 | C4H5N3O
reactant | hexamethyldisilazane | 15 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | trimethyl-chlorosilane | 0.1 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-trimethylsilyloxy-4-trimethylsilyl amino pyrimidine | C[Si](OC1=NC=C(C(=N1)[Si](C)(C)C)N)(C)C | C10H21N3OSi2
